US04243600
10 parts of 1-nitroanthraquinone-2-carboxylic acid and 2 parts of hydroxylammonium sulfate are suspended at room temperature in 60 parts of isopropanol and 100 parts of 4 N sodium hydroxide. The mixture is refluxed for 3 hours, then cooled to room temperature, diluted with water and acidified with hydrochloric acid. The mixture is filtered and the filter cake is washed netural with water and dried, affording 7 parts of 1,4-diaminoanthraquinone-2-carboxylic acid.

reactant | 1-nitroanthraquinone-2-carboxylic acid | [N+](=O)([O-])C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H7NO6
reactant | hydroxylammonium sulfate | S(=O)(=O)([O-])[O-].O[NH3+].O[NH3+]
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1,4-diaminoanthraquinone-2-carboxylic acid | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)C(=O)O | C15H10N2O4
